US06372759B1
B) 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(3-bromoindol-6-ylcarbonyl)-1,2-benzenediamine
Using the procedure described in Example 9, Part C, 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine (750 mg, 1.9 mmol) and 3-bromoindole-6-carboxylic acid (456 mg, 1.9 mmol) yielded 930 mg (79%) of the title compound.

reactant | 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 1.9 mmol, 750 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)N)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C23H34N2O2Si
reactant | 3-bromoindole-6-carboxylic acid | 1.9 mmol, 456 mg | BrC1=CNC2=CC(=CC=C12)C(=O)O | C9H6BrNO2
product | 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(3-bromoindol-6-ylcarbonyl)-1,2-benzenediamine | 930 mg, 79% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)NC(=O)C1=CC=C2C(=CNC2=C1)Br)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C32H38BrN3O3Si
